US05814653
A solution of 0.10 gm (0.30 mMol) 6-(t-butoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole in 1.0 mL trifluoroacetic acid was stirred for 20 minutes at room temperature. The reaction mixture was then concentrated under reduced pressure. The residual oil was then dissolved in 5 mL tetrahydrofuran. To this solution was added 1.5 mL triethylamine followed by 5.0 μL (0.42 mMol) 4-fluorobenzoyl chloride and the solution was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in dichloromethane. This solution was washed with aqueous potassium carbonate and was then concentrated under reduced pressure. The residue was dissolved in dilute aqueous tartaric acid and the solution was extracted well with dichloromethane. The remaining aqueous phase was made basic with dilute aqueous sodium hydroxide and was extracted well with dichloromethane. These organic phases were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 95:5 chloroform:5% ammonium hydroxide in methanol. Fractions containing the product were combined and concentrated under reduced pressure to give 0.102 gm (95%) of 6-(4-fluorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole.

reactant | 6-(t-butoxycarbonyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.30 mMol, 0.10 gm | C(C)(C)(C)OC(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C19H27N3O2
reactant | 4-fluorobenzoyl chloride | 0.42 mMol, 5.0 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(4-fluorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.102 gm, 95% | FC1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C21H22FN3O
